US04241053
3.4 g of 1-(2-chloroethyl)-3-(2-methoxyethyl)-3-(D-mannopyranosyl)urea are dissolved in a mixture of 40 ml of tetrahydrofuran and 10 ml of acetic acid, and 17 g of sodium acetate anhydrate are added thereto. 6 g of nitrogen tetroxide gas are introduced into the mixture for 10 minutes under ice-cooling and stirring. The mixture is further stirred at the same temperature for 10 minutes. 70 ml of hexane are added to the reaction mixture, and said mixture is filtered. The filtrate is condensed under reduced pressure. A mixture of 200 ml of hexane and 4 ml of methanol is added to the residue. After the resultant oil is washed with ether, said oil is dissolved in 50 ml of ethyl acetate. 10 ml of water are added to the ethyl acetate solution, and the mixture is shaken. Then, the ethyl acetate layer is collected therefrom, dried and evaporated under reduced pressure. 1.7 g of 1-(2-chloroethyl)-1-nitroso-3-(2-methoxyethyl)-3-(D-mannopyranosyl)urea is thereby obtained as pale yellow caramel.

reactant | 1-(2-chloroethyl)-3-(2-methoxyethyl)-3-(D-mannopyranosyl)urea | 3.4 g | ClCCNC(=O)N(C1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CCOC | C12H23ClN2O7
reactant | sodium acetate | 17 g | C(C)(=O)[O-].[Na+]
reactant | nitrogen tetroxide | 6 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
reactant | hexane | 70 ml | CCCCCC | C6H14
reactant | hexane | 200 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 4 ml | CO | CH4O
product | 1-(2-chloroethyl)-1-nitroso-3-(2-methoxyethyl)-3-(D-mannopyranosyl)urea | 1.7 g | ClCCN(C(=O)N(C1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CCOC)N=O | C12H22ClN3O8
